US08232403B2
To a stirred solution of trans-N-[2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinolin-3-ylmethyl]-N-[3,5-bis(trifluoromethyl)benzyl](2-methyl-2H-tetrazol-5-yl)amine (11.0 g, 14.0 mmol) in CH2Cl2 (120 mL) is added dropwise BBr3 (1.0 M CH2Cl2 solution, 18.0 mL, 18.0 mmol) at 0° C. and stirred at room temperature for 10 min. The reaction mixture is quenched by addition of sat. NaHCO3 aq. extracted with ethyl acetate, and the organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude product is purified by silica gel column chromatography to give trans-2-(4-{(R)-1-[3-({[3,5-bis(trifluoromethyl)benzyl](2-methyl-2H-tetrazol-5-yl)amino}methyl)-6,7-difluoroquinolin-2-yl]pyrrolidin-2-yl}cyclohexyl)ethanol.

reactant | trans-N-[2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinolin-3-ylmethyl]-N-[3,5-bis(trifluoromethyl)benzyl](2-methyl-2H-tetrazol-5-yl)amine | 14.0 mmol, 11.0 g | C(C1=CC=CC=C1)OCC[C@@H]1CC[C@H](CC1)[C@@H]1N(CCC1)C1=NC2=CC(=C(C=C2C=C1CN(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=1N=NN(N1)C)F)F | C40H41F8N7O
reactant | BBr3 | 18.0 mmol, 1.0 M, 18.0 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | trans-2-(4-{(R)-1-[3-({[3,5-bis(trifluoromethyl)benzyl](2-methyl-2H-tetrazol-5-yl)amino}methyl)-6,7-difluoroquinolin-2-yl]pyrrolidin-2-yl}cyclohexyl)ethanol | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C(=NC3=CC(=C(C=C3C2)F)F)N2[C@H](CCC2)[C@@H]2CC[C@H](CC2)CCO)C=C(C1)C(F)(F)F)(F)F | C33H35F8N7O
